US08227492B2
Preparation S-[4-(N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]-4-chlorophenyl}carbamoyl)phenyl]-S-methyl-N-(carbamoylmethyl)sulfoximide
To a stirring solution of S-[4-(N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]-4-chlorophenyl}carbamoyl)phenyl]-S-methyl sulfoximide (500 mg, 0.00108 mol) in DMF(2.5 mL) was added Sodium hydride (170 mg, 0.0036mol) at 25-30° C. under nitrogen atmosphere. Reaction mixture was stirred at 40-45° C. for 3 hr. Reaction mixture was cooled to 0-5° C. and to this was added iodoacetamide (240 mg, 0.0013 mol) and stirred for 12 hr at 25-30° C. Subsequent work up and column purification (100-200 mesh silica gel, 2% methanol in chloroform) gave 90 mg of titled product in 16% yield.

reactant | S-[4-(N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]-4-chlorophenyl}carbamoyl)phenyl]-S-methyl sulfoximide | 0.00108 mol, 500 mg | ClC=1C=CC(=NC1)NC(=O)C1=C(C=CC(=C1)Cl)NC(=O)C1=CC=C(C=C1)S(=O)(=N)C | C20H16Cl2N4O3S
reactant | Sodium hydride | 0.0036mol, 170 mg | [H-].[Na+]
reactant | iodoacetamide | 0.0013 mol, 240 mg | ICC(=O)N | C2H4INO
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | S-[4-(N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]-4-chlorophenyl}carbamoyl)phenyl]-S-methyl-N-(carbamoylmethyl)sulfoximide | 90 mg, 16% yield | ClC=1C=CC(=NC1)NC(=O)C1=C(C=CC(=C1)Cl)NC(=O)C1=CC=C(C=C1)S(=O)(=NCC(N)=O)C | C22H19Cl2N5O4S
